US07176242B2
Step 4: 4-Butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3,4-dihydro-2H-1,4-benzoxazine-6-carboxamide
A solution of 4-Butyl-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid (43 mg), HATU (104 mg), HOBt (37 mg), and diisopropylethylamine (47 μL) was stirred in methylene chloride (1.0 mL) for 15 min. A solution of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride (62 mg) and diisopropylethylamine (47 μL) in methylene chloride (1.0 mL) was added and the reaction mixture was stirred overnight. The mixture was diluted with methylene chloride, washed with 1 N hydrochloric acid (15 mL), saturated sodium bicarbonate (15 mL), and brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:9 methanol/chloroform) provided 15 mg of the title compound: APCI MS m/z 552 [M+H]+.

reactant | 4-Butyl-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid | 43 mg | C(CCC)N1CCOC2=C1C=C(C=C2)C(=O)O | C13H17NO3
reactant | HATU | 104 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 37 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 47 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | 62 mg | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
reactant | diisopropylethylamine | 47 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 4-Butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3,4-dihydro-2H-1,4-benzoxazine-6-carboxamide | 15 mg | C(CCC)N1CCOC2=C1C=C(C=C2)C(=O)N[C@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)CC2=CC(=CC(=C2)F)F | C32H39F2N3O3
